US07256198B2
8′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one
The title compound was prepared as a yellow solid from 5′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one and 1-chloromethyl-cyclopentanecarbonitrile (Syn. Comm. 20(12) 1757, 1990) using a procedure similar to that of steps 3-5 of Example 12. NMR (400 Mz, DMSO-d6): consistent. MS: (ES−) m/z 478 [M−H]. m.p.: 142.9.8-144.5° C.

reactant | 5′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C22H24N2O6S
reactant | 1-chloromethyl-cyclopentanecarbonitrile | ClCC1(CCCC1)C#N | C7H10ClN
product | 8′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC1(CN3)CCCC1)=O | C26H29N3O4S
